US06046210
4-Bromobenzamidoxime
To a stirred solution of ice cooled methanol (115 ml), under argon, was added potassium tert-butoxide (10.12 g. 0.09 mol), portionwise. After stirring for 5 minutes hydroxylamine hydrochloride (6.71 g, 0.097 mol) was added in one portion. After stirring for 1 hour at room temperature a slurry of 4-bromobenzonitrile, (10.88 g, 0.06 mol) in methanol (150 ml) was added. The mixture was then heated at reflux for 4 hours, cooled and filtered. The filtrate was evaporated in vacuo to give the title compound as a colourless solid (14.12 g, quant.)

reactant | potassium tert-butoxide | 0.09 mol, 10.12 g | CC(C)([O-])C.[K+]
reactant | hydroxylamine hydrochloride | 0.097 mol, 6.71 g | Cl.NO
reactant | 4-bromobenzonitrile | 0.06 mol, 10.88 g | BrC1=CC=C(C#N)C=C1 | C7H4BrN
solvent | methanol | 150 ml | CO | CH4O
solvent | methanol | 115 ml | CO | CH4O
product | 4-Bromobenzamidoxime | 14.12 g | BrC1=CC=C(C(N)=NO)C=C1 | C7H7BrN2O
